US06403610B1
8.8 g of (3R,4R)-1-benzoyl-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid were heated, with stirring, in 200 cm3 of 5N aqueous hydrochloric acid at a temperature in the region of 100° C. for 48 hours. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 50° C. The residue was taken up in 100 cm3 of acetone. The mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 60° C. This operation was repeated an additional two times. The residue was finally triturated in 100 cm3 of acetone until it crystallized. After filtering off the crystals and drying in a desiccator under reduced pressure (10 kPa), 7.2 g of (3R,4R)-4-[3-(6-methoxyquinolin4-yl)propyl]piperidine-3-carboxylic acid hydrochloride were obtained in the form of a beige solid melting at approximately 270° C. (melting with softening).

reactant | (3R,4R)-1-benzoyl-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid | 8.8 g | C(C1=CC=CC=C1)(=O)N1C[C@@H]([C@@H](CC1)CCCC1=CC=NC2=CC=C(C=C12)OC)C(=O)O | C26H28N2O4
reactant | hydrochloric acid | 5N, 200 cm3 | Cl | ClH
product | (3R,4R)-4-[3-(6-methoxyquinolin4-yl)propyl]piperidine-3-carboxylic acid hydrochloride | 7.2 g | Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)C(=O)O | InChI=1S/C19H24N2O3.ClH/c1-24-15-5-6-18-16(11-15)13(8-10-21-18)3-2-4-14-7-9-20-12-17(14)19(22)23;/h5-6,8,10-11,14,17,20H,2-4,7,9,12H2,1H3,(H,22,23);1H/t14-,17+;/m1./s1
